US04202895
To a solution of 1.5 g of 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinethione in 50 ml. of dioxane was added dropwise a solution of 3 g of potassium permangenate in 20 ml. of water. The mixture was stirred at room temperature for 2 hours and then a few drops of formic acid was added. The resultant brown precipitate was filtered off and washed with chloroform. The filtrate was concentrated under reduced pressure and the residue was dissolved in 30 ml. of chloroform. The chloroform solution was combined, washed successively with dilute sodium hydroxide solution and water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was recrystallized from isopropyl alcohol to give 1 g of 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone, m.p. 184.0°-185.0° C.

reactant | 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-3,4-dihydro-2(1H)-quinazolinethione | 1.5 g | FC(CN1C(NC(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=S)(F)F | C16H12ClF3N2S
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | potassium | 3 g | [K] | K
catalyst | formic acid | a few drops | C(=O)O | CH2O2
solvent | water | O | H2O
product | 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone | 1 g | FC(CN1C(N=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=O)(F)F | C16H10ClF3N2O
